US04067903
N-(β-diethylaminoethyl)-aniline
93 parts of aniline, 180 parts of 2-diethylaminoethanol and 10 parts of triphenyl phosphite are heated for 20 hours at 210° C in a stirred autoclave. The autoclave is then let down and the water of reaction formed, the excess aniline and the unconverted aminoalcohol are distilled under reduced pressure. 144 parts of N-(β-diethylaminoethyl)-aniline, corresponding to a yield of 75% of theory, distil at a boiling point of 185° - 187° C/15 mm Hg.

reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | 2-diethylaminoethanol | C(C)N(CCO)CC | C6H15NO
reactant | triphenyl phosphite | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
solvent | water | O | H2O
product | N-(β-diethylaminoethyl)-aniline | yield of 75% | C(C)N(CCNC1=CC=CC=C1)CC | C12H20N2
